US06319895B1
Sodium hydroxide is added to a 10% aqueous solution of commercially available lactose. followed by mixing, and thereafter the mixed solution was heated at 70° C. for 30 minutes and cooled. The cooled solution was purified by an ion-exchange resin, concentrated, cooled and crystallized and the unreacted lactose is removed to give an aqueous solution of lactulose in which the solid content is about 68% (where the solid contains about 79% of lactulose). This aqueous solution is passed through a column filled with a strongly acidic ion-exchange resin and a fraction containing lactulose is collected and concentrated to give an aqueous solution of pure lactulose containing about 68% of solid (where the solid contains about 86% of lactulose). This is the method disclosed in JP 3-169888 A.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
product | lactulose | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O.O | InChI=1S/C12H22O11.H2O/c13-1-4-6(16)7(17)8(18)11(21-4)22-9-5(2-14)23-12(20,3-15)10(9)19;/h4-11,13-20H,1-3H2;1H2/t4-,5-,6+,7+,8-,9-,10+,11+,12-;/m1./s1
